US06949652B2
Crude 6-[4-(2,5-difluoro-phenyl)-oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine (5.0 g) was dissolved in isopropanol (40 ml). Hydrochloric acid (13.3% weight) in isopropanol (4.4 g) was added. The resulting slurry was stirred at room temperature for 30 minutes and filtered. The cake was washed with isopropanol and dried in a vacuum oven (80° C.) for 2 hours. 6-[4-(2,5-Difluoro-phenyl)-oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine hydrogen chloride was obtained as an off-white solid (2.8 g, yield 50%).

reactant | 6-[4-(2,5-difluoro-phenyl)-oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine | 5.0 g | FC1=C(C=C(C=C1)F)C=1N=COC1C=1C=CC=2N(C1)C(=NN2)C(C)C | C18H14F2N4O
reactant | Hydrochloric acid | Cl | ClH
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 4.4 g | C(C)(C)O | C3H8O
product | 6-[4-(2,5-Difluoro-phenyl)-oxazol-5-yl]-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine hydrogen chloride | Cl.FC1=C(C=C(C=C1)F)C=1N=COC1C=1C=CC=2N(C1)C(=NN2)C(C)C | InChI=1S/C18H14F2N4O.ClH/c1-10(2)18-23-22-15-6-3-11(8-24(15)18)17-16(21-9-25-17)13-7-12(19)4-5-14(13)20;/h3-10H,1-2H3;1H
